US06747023B1
5-Methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine
In N,N-dimethylformamide (80 ml) was dissolved thiazolo[4,5-c]pyridine (700 mg), followed by the addition of methyl iodide (0.65 ml). The resulting mixture was stirred under heat at 80° C. for 4 hours. After concentration of the reaction mixture under reduced pressure, the residue was dissolved in water (100 ml). Sodium borohydride (583 mg) was added to the resulting solution, followed by stirring at room temperature for 1 hour. After the addition of a saturated aqueous solution of potassium carbonate, the resulting mixture was extracted with ether. The organic layer thus extracted was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=25:1), whereby the title compound (596 mg) was obtained as a colorless oil.

reactant | thiazolo[4,5-c]pyridine | 700 mg | S1C=NC=2C=NC=CC21 | C6H4N2S
reactant | methyl iodide | 0.65 ml | CI | CH3I
reactant | Sodium borohydride | 583 mg | [BH4-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-Methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine | CN1CC2=C(CC1)SC=N2 | C7H10N2S
